US07947834B2
0.25 g of 1-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline, 8.1 ml of dichloromethane and 0.3 ml of diisopropylethylamine are placed in a 50 ml round-bottomed flask under a nitrogen atmosphere. 0.12 g of triphosgene is added at 0° C. and then the reaction mixture is left stirring at ambient temperature for three hours. 0.5 ml of diisopropylethylamine and 0.33 ml of methanol are subsequently added and the reaction mixture is stirred for twenty-four hours. A saturated aqueous sodium hydrogencarbonate solution and dichloromethane are added. The aqueous phase is extracted three times with dichloromethane. The organic phases are combined, washed with water and with a saturated aqueous sodium chloride solution and dried over sodium sulfate and then the solvent is evaporated under reduced pressure. The residue is chromatographed on silica gel with a dichloromethane/methanol 95/5 mixture. 0.112 g of methyl 4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydroquinoxaline-1(2H)-carboxylate is obtained.

reactant | 1-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline | 0.25 g | N1=CC(=CC=C1)C1CN(CC1)C(=O)N1CCNC2=CC=CC=C12 | C18H20N4O
reactant | diisopropylethylamine | 0.3 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triphosgene | 0.12 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | diisopropylethylamine | 0.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 0.33 ml | CO | CH4O
solvent | dichloromethane | 8.1 ml | ClCCl | CH2Cl2
product | methyl 4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.112 g | N1=CC(=CC=C1)C1CN(CC1)C(=O)N1CCN(C2=CC=CC=C12)C(=O)OC | C20H22N4O3
